US08871753B2
Step A: tert-Butyl (2-iodo-4-nitrophenyl)carbamate
Into the reaction flask was added 2-iodo-4-nitroaniline (2.0 g, 7.6 mmol) and N,N-dimethylformamide (30 mL). Sodium hydride (0.22 g, 9.1 mmol) was added at 0° C., followed by the addition of di-tert-butyldicarbonate (1.8 g, 8.3 mmol). The mixture was warmed up to rt and stirred over the weekend. To it was added water and EtOAc. The aqueous layer was extracted again with EtOAc. The organic layers were combined and dried over Na2SO4. After filtration and concentration, the crude was purified by silica gel column chromatography to give the desired product (1.5 g, 55%). LCMS for C11H141N2O4 (M+H)+: m/z=364.9.

reactant | 2-iodo-4-nitroaniline | 7.6 mmol, 2.0 g | IC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5IN2O2
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | Sodium hydride | 9.1 mmol, 0.22 g | [H-].[Na+]
reactant | di-tert-butyldicarbonate | 8.3 mmol, 1.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | tert-Butyl (2-iodo-4-nitrophenyl)carbamate | 1.5 g, 55% | IC1=C(C=CC(=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C11H13IN2O4
